### PR TITLE
Add the LIPO and RankOpt global optimization algorithms

### PR DESCRIPTION
**Pull request by gaetanserre**
Add the [LIPO](https://arxiv.org/abs/1703.02628) and [RankOpt](https://arxiv.org/abs/1603.04381) global optimization algorithms.

Define the `Decision` interface for decision-based algorithm i.e., algorithms that accepts a candidate point sampled from a probability measure w.r.t. its membership to a _decision_ set.

### CODE REVIEW

File: LeanMachineLearning/Optimization/Algorithms/RankOpt.lean [hunk 1]
```diff
@@ -0,0 +1,130 @@
...
+ensuring that the algorithm can sample from it. -/
+variable {𝓡} (h𝓡 : 𝓡.Countable) (h₀ : ∀ ⦃n⦄ ⦃data : Iic n → α × β⦄, μ (potentialMax 𝓡 data) ≠ 0)
+
+/-- The RankOpt algorithm for global optimization.
+This algorithm uses a ranking approach to optimize an unknown function. It maintains a hypothesis
+class `𝓡` of ranking rules. It starts with an arbitrary probability measure `μ` as initial
+distribution and samples from the set of points that could be optimal according to ranking rules
+consistent with the observed data [(Malherbe et al., 2017)](https://arxiv.org/abs/1603.04381). -/
+noncomputable def RankOpt : Algorithm α β := by
+  refine Decision μ (fun n↦ Kernel.const _ μ) (measurableSet_potential_max_prod h𝓡) ?_ ?_
```
Comment (RemyDegenne) [inline LeanMachineLearning/Optimization/Algorithms/RankOpt.lean]:
```suggestion
  refine Decision μ (fun n ↦ Kernel.const _ μ) (measurableSet_potential_max_prod h𝓡) ?_ ?_
```

File: LeanMachineLearning/Optimization/Algorithms/LIPO.lean [hunk 2]
```diff
@@ -0,0 +1,77 @@
...
+
+/-- The set of potential maximizers for the LIPO algorithm.
+Given observed data points and function values, this set contains all points `x` where
+the maximum observed value is at most the minimum Lipschitz upper bound across all observations.
+The upper bound at `x` from observation `i` is `f(xᵢ) + κ · d(xᵢ, x)`, where `κ` is the
+Lipschitz constant. -/
+def potentialMax :=
+  {x | (fun i ↦ (data i).2).max ≤ (fun i ↦ (data i).2 + κ * dist (data i).1 x).min}
+
+lemma measurableSetPotentialMaxProd (n : ℕ) :
```
Comment (RemyDegenne) [inline LeanMachineLearning/Optimization/Algorithms/LIPO.lean]:
```suggestion
lemma measurableSet_potentialMax_prod (n : ℕ) :
```

File: LeanMachineLearning/Optimization/Algorithms/Decision.lean [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+  (measurableSet_decision_prod :
+    ∀ ⦃n⦄, MeasurableSet {p : (Iic n → α × β) × α | p.2 ∈ decision n p.1}) {n : ℕ}
+
+/- We need that the decisions has non-zero measure at each iteration,
+ensuring that the algorithm can sample from it. -/
+variable (h₀ : ∀ n (data : Iic n → α × β), κs n data (decision n data) ≠ 0)
+  (htop : ∀ n (data : Iic n → α × β), κs n data (decision n data) ≠ ⊤)
+
+/-- The interface for decision-based optimization algorithms. -/
+noncomputable def Decision : Algorithm α β where
```
Comment (RemyDegenne) [inline LeanMachineLearning/Optimization/Algorithms/Decision.lean:43]: I'm not a fan of the `Decision` name. It's too vague. Every algorithm is a decision procedure.
Can we try to describe it more precisely? What you are doing is taking a sequence of kernels (an Algorithm, up to the fact that they might not be Markov), and conditioning them on some sets. It almost feels like it should be `Algorithm.cond`, but the kernels are not necessarily Markov so it can't be. I'll be thinking about a name.
